US04000302
The reaction of 2-(4-aminobutyl)pyridine (3.0 g) and methyl isothiocyanate (1.6 g) in ethanol (25 ml) for 0.5 hours followed by chromatography of the product on silica and elution with ethyl acetate affords N-methyl-N'-(4-(2-pyridyl)butyl)thiourea (3.0 g) as a colourless oil.

reactant | 2-(4-aminobutyl)pyridine | 3.0 g | NCCCCC1=NC=CC=C1 | C9H14N2
reactant | methyl isothiocyanate | 1.6 g | CN=C=S | C2H3NS
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-methyl-N'-(4-(2-pyridyl)butyl)thiourea | 3.0 g | CNC(=S)NCCCCC1=NC=CC=C1 | C11H17N3S
